US05021524
To a solution of 21.8 mL (0.156 mole) of diisopropylamine in 100 mL of THF at 0° was added 0.156 mole of butyl lithium/hexane. After 30 minutes, the solution was cooled to -78°, and 27.19 g of ethyl 2-trimethylsilylpropionate (vide supra) was added. After 30 minutes at -78°, 17.38 g (20.3 mL, 0.16 mole) of chlorotrimethylsilane was added. The mixture was allowed to warm to ambient temperature, filtered under argon, and the filtrate was evaporated. The residue was treated with hexane and filtered. The filtrate was concentrated and distilled in a spinning band column to give, in three fractions, 29.6 g of (82% E-) [(1-ethoxy-2-trimethylsilyl-1-propenyl)oxy]-trimethylsilane, b.p 36°/0.8 mm, -43°/0.7 mm. There were no compositional differences in the three fractions. A fraction with b.p. 45°/0.7 mm was analyzed.

reactant | diisopropylamine | 0.156 mole, 21.8 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium hexane | 0.156 mole | C(CCC)[Li].CCCCCC
reactant | ethyl 2-trimethylsilylpropionate | 27.19 g | C[Si](C(C(=O)OCC)C)(C)C | C8H18O2Si
reactant | chlorotrimethylsilane | 0.16 mole, 20.3 mL, 17.38 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | [(1-ethoxy-2-trimethylsilyl-1-propenyl)oxy]-trimethylsilane | 29.6 g, 82% | C(C)OC(=C(C)[Si](C)(C)C)O[Si](C)(C)C | C11H26O2Si2
